US07407961B2
Under ice-bath cooling, to a suspension of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-N-methoxy-N-methyl-5-phenyl-2-pyrazinecarboxamide (200 mg) in THF (4.0 ml) was added 3.0M solution of methylmagnesium chloride in THF (0.85 ml) dropwise. The mixture was stirred at the same temperature for 5 hours. The mixture was poured into sat. aq ammonium chloride (20 ml) and an organic layer was extracted with EtOAc (50 ml), washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was purified by silica-gel column chromatography (CH2Cl2:MeOH=50:1-15:1). The desired fraction was recrystallized from MeOH and dried in vacuo to give 5-(6-acetyl-5-amino-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (111 mg).

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-N-methoxy-N-methyl-5-phenyl-2-pyrazinecarboxamide | 200 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)C(=O)N(C)OC | C21H23N5O3
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | THF | 0.85 ml | C1CCOC1 | C4H8O
product | 5-(6-acetyl-5-amino-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 111 mg | C(C)(=O)C1=C(N=C(C(=N1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1)N | C20H20N4O2
